US07420083B2
A mixture of 3-biphenyl-4-yl-acrylic acid (0.449 g, 2.004 mmol) in SOCl2 (5 ml) was refluxed for 2 h. After cooling, the solvent was removed. The residue was dissolved in acetone and added into a stirred solution of 4-hydroxy-2-(naphthoylamino)-benzoic acid methyl ester (0.335 g, 2.004 mmol) in acetone (10 ml) with NaHCO3 (0.202 g, 2.405 mmol). After 18 h, the reaction mixture was concentrated. The residue was triturated with water, filtered and the solids rinsed with ether and dried to give 2-{[(2E)-3-(1,1′-biphenyl-4-yl)prop-2-enoyl]amino}-4-hydroxybenzoic acid methyl ester (0.593 g, 1.588 mmol, 79%) as an off-white solid, mp 292-296° C. 1H NMR (DMSO-d6) δ 3.88 (s, 3H), 6.57 (dd, 1H), 6.95 (d, 1H), 7.37-7.54 (m, 3H), 7.67 (d, 1H), 7.70-7.80 (m, 4H), 7.80-7.90 (m, 3H), 8.20 (dd, 1H), 10.55 (s, 1H), 11.20 (s, 1H); mass spectrum [ES(−)], m/z 372 (M−H)−.

reactant | 3-biphenyl-4-yl-acrylic acid | 2.004 mmol, 0.449 g | C1(=CC=C(C=C1)C=CC(=O)O)C1=CC=CC=C1 | C15H12O2
reactant | 4-hydroxy-2-(naphthoylamino)-benzoic acid methyl ester | 2.004 mmol, 0.335 g | COC(C1=C(C=C(C=C1)O)NC(=O)C1=CC=CC2=CC=CC=C12)=O | C19H15NO4
reactant | NaHCO3 | 2.405 mmol, 0.202 g | C(=O)(O)[O-].[Na+]
solvent | SOCl2 | 5 ml | O=S(Cl)Cl | Cl2OS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-{[(2E)-3-(1,1′-biphenyl-4-yl)prop-2-enoyl]amino}-4-hydroxybenzoic acid methyl ester | 1.588 mmol, 0.593 g, 79% | COC(C1=C(C=C(C=C1)O)NC(\C=C\C1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C23H19NO4
